US06313302B2
(i) 3-chloro-4-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzonitrile
To a stirred solution of the mixture of 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethanol and 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(R)-phenylethanol (251 mg, 1.00 mmol) and methylamine (0.167 ml, 1.20 mmol) in CH2Cl2 (4 ml) was added methanesulfonyl chloride (0.093 ml, 1.20 mmol) dropwise at 0° C. (ice bath). After 15.5 h stirring at room temperature, the reaction mixture was washed with saturated NaHCO3 aqueous solution, brine, dried (Na2SO4), and concentrated to give 238 mg of brown viscous oil-(i). To a suspension of NaH (48 mg, 1.20 mmol) in N,N-dimethylformamide (2 ml) was added a solution of 3-chloro-4-methylaminobenzonitrile (200 mg, 1.20 mmol) at room temperature. After stirring for 45 min, to this mixture was added a solution of the above brown viscous oil-(i) in N,N-dimethylformamide (2 ml) at room temperature and the mixture was stirred at room temperature for 4.5 h. H2O was added to this mixture, basified with 25%-NH4OH and extracted with CH2Cl2. The extract was washed with water, brine, dried (Na2SO4), and concentrated to give brown oil, which was purified by column chromatography (silica gel 20 g, CH2C2/MeOH 100/1-50/1) to afford 244 mg (61%) of brown oil.

reactant | 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethanol | COCO[C@@H]1CN(CC1)C[C@@H](O)C1=CC=CC=C1 | C14H21NO3
reactant | 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(R)-phenylethanol | 1.00 mmol, 251 mg | COCO[C@@H]1CN(CC1)[C@@H](CO)C1=CC=CC=C1 | C14H21NO3
reactant | methylamine | 1.20 mmol, 0.167 ml | CN | CH5N
reactant | methanesulfonyl chloride | 1.20 mmol, 0.093 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaH | 1.20 mmol, 48 mg | [H-].[Na+]
reactant | 3-chloro-4-methylaminobenzonitrile | 1.20 mmol, 200 mg | ClC=1C=C(C#N)C=CC1NC | C8H7ClN2
reactant | NH4OH | [NH4+].[OH-]
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
product | 3-chloro-4-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzonitrile | 244 mg, 61% | ClC=1C=C(C#N)C=CC1N(C)[C@H](CN1C[C@H](CC1)OCOC)C1=CC=CC=C1 | C22H26ClN3O2
